US06258961B1
Dextrorotatory methyl[2-(2-thienyl)ethylamino](2-chlorophenyl)acetate-hydrochloride
In 40 ml of methanol under cooling 11.5 ml (0.215 mol) of 100% sulfuric acid is dissolved, the solution is heated under reflux conditions for 30 minutes, then after cooling to room temperature 12.4 g (0.042 mol) of dextrorotatory [2-(2-thienyl)ethylamino](2-chlorophenyl)acetamide is added and the mixture is heated under reflux for 6-7 hours, till the end of the reaction. Methanol is distilled off in vacuo, to the residue 75 ml of 1,2-dichloroethane and 75 ml of water are added, the mixture is shaken well and the phases are separated. The aqueous phase is extracted with 2×20 ml of 1,2-dichloroethane, the united organic phase is extracted with 50 ml of 5% sodium hydroxide solution then with 50 ml of water, dried over anhydrous sodium sulfate. The drying material is filtered off and 1.5 g (0.041 mol of dry hydrogen chloride gas is introduced under cooling into the solution. The precipitated crystalline product is filtered off, washed with 1,2-dichloroethane and dried. Weight: 12.1 g, mp.: 185-186° C. (decomposition), [α]22D=+107° . Yield: 83%. Optical purity: in general 99-100%.

reactant | sulfuric acid | 0.215 mol, 11.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | [2-(2-thienyl)ethylamino](2-chlorophenyl)acetamide | 0.042 mol, 12.4 g | S1C(=CC=C1)CCNC(C(=O)N)C1=C(C=CC=C1)Cl | C14H15ClN2OS
reactant | hydrogen chloride | 0.041 mol | Cl | ClH
reactant | methanol | 40 ml | CO | CH4O
product | methyl[2-(2-thienyl)ethylamino](2-chlorophenyl)acetate-hydrochloride | Yield: 83% | Cl.COC(C(C1=C(C=CC=C1)Cl)NCCC=1SC=CC1)=O | InChI=1S/C15H16ClNO2S.ClH/c1-19-15(18)14(12-6-2-3-7-13(12)16)17-9-8-11-5-4-10-20-11;/h2-7,10,14,17H,8-9H2,1H3;1H
